US08217177B2
A 48 mL sealed tube was charged with (6-chloroimidazo[1,2-b]pyridazin-3-yl)(quinolin-6-yl)methanone (0.530 g, 1.72 mmol), phenylboronic acid (0.314 g, 2.58 mmol), cesium carbonate (1.68 g, 5.15 mmol), PdCl2(dppt)-CH2Cl2 adduct (0.0701 g, 0.0858 mmol), 1,4-dioxane (6.31 ml, 73.8 mmol), and water (1.11 ml, 61.8 mmol), flushed with argon, sealed, then placed in an 80° C. oil bath for 8 hours. The mixture was concentrated then triturated with water, followed by MeOH/DCM to give (6-phenylimidazo[1,2-b]pyridazin-3-yl)(quinolin-6-yl)methanone as a reddish brown solid.

reactant | (6-chloroimidazo[1,2-b]pyridazin-3-yl)(quinolin-6-yl)methanone | 1.72 mmol, 0.530 g | ClC=1C=CC=2N(N1)C(=CN2)C(=O)C=2C=C1C=CC=NC1=CC2 | C16H9ClN4O
reactant | phenylboronic acid | 2.58 mmol, 0.314 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium carbonate | 5.15 mmol, 1.68 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 73.8 mmol, 6.31 ml | O1CCOCC1 | C4H8O2
reactant | water | 61.8 mmol, 1.11 ml | O | H2O
product | (6-phenylimidazo[1,2-b]pyridazin-3-yl)(quinolin-6-yl)methanone | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=CN2)C(=O)C=2C=C1C=CC=NC1=CC2 | C22H14N4O
